US03976653
A mixture of 1.4 g. of cis-1,2,3,4,4a,5,10,10a-octahydrobenzo[g]quinolin-7-ol hydrobromide, 2.1 g. of sodium acetate trihydrate, and 14 ml. of acetic anhydride was stirred and heated on a steam bath for 1 hour. The solvent was evaporated from the mixture and the resulting residue was partitioned between water and diethyl ether. The ether layer was washed with saturated aqueous sodium bicarbonate solution, dried, and filtered, and the filtrate was evaporated. The residue thus obtained was crystallized from hexane to yield cis-1,2,3,4,4a,5,10,10a-octahydro-1-acetyl-7-acetoxybenzo[g]quinoline, m.p. 108°-113°C. The nmr spectrum (CDCl3) showed 3 aryl protons (400-430 Hz) and two methyl singlets (125, 133 Hz).

reactant | cis-1,2,3,4,4a,5,10,10a-octahydrobenzo[g]quinolin-7-ol hydrobromide | Br.N1CCC[C@@H]2CC3=C(C[C@H]12)C=CC(=C3)O
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | cis-1,2,3,4,4a,5,10,10a-octahydro-1-acetyl-7-acetoxybenzo[g]quinoline | C(C)(=O)N1CCC[C@@H]2CC3=C(C[C@H]12)C=CC(=C3)OC(C)=O | C17H21NO3
